US08138189B2
Step 2: 6-{3-Chloro-4-[3,3,3-trifluoro-2-hydroxy-1-methyl-2-(2-methyl-pyridin-4-yl)-propyl]-phenyl}-nicotinic acid
To 6-{3-chloro-4-[3,3,3-trifluoro-2-hydroxy-1-methyl-2-(2-methyl-pyridin-4-yl)-propyl]-phenyl}-nicotinic acid methyl ester (22 mg) aqueous 1N LiOH (5 ml), MeOH (2.5 ml) and THF (5 ml) were added. The resulting solution was stirred for 2 h at room temperature. Volatile solvents were removed in vacuo. The residual aqueous solution was diluted with water (10 ml) and washed with DCM (10 ml), then acidified to pH 6 with 1 N aqueous HCl and extracted with EtOAc. The combined EtOAc layers were dried over Na2SO4 and concentrated to give the title compound (21 mg) as a yellow oil. MS (m/e)=451.0 [M+H+].

reactant | 6-{3-chloro-4-[3,3,3-trifluoro-2-hydroxy-1-methyl-2-(2-methyl-pyridin-4-yl)-propyl]-phenyl}-nicotinic acid methyl ester | 22 mg | COC(C1=CN=C(C=C1)C1=CC(=C(C=C1)C(C(C(F)(F)F)(C1=CC(=NC=C1)C)O)C)Cl)=O | C23H20ClF3N2O3
reactant | LiOH | 1N, 5 ml | [Li+].[OH-]
reactant | MeOH | 2.5 ml | CO | CH4O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 6-{3-Chloro-4-[3,3,3-trifluoro-2-hydroxy-1-methyl-2-(2-methyl-pyridin-4-yl)-propyl]-phenyl}-nicotinic acid | 21 mg | ClC=1C=C(C=CC1C(C(C(F)(F)F)(C1=CC(=NC=C1)C)O)C)C1=NC=C(C(=O)O)C=C1 | C22H18ClF3N2O3
